US09085583B2
A mixture of 2,4-dichloro-6-methylnicotinonitrile (12.0 g, 64.2 mmol), CsOAc (37.0 g, 193.0 mmol) in N,N-dimethylformamide (50 mL) was stirred at 80° C. overnight under N2. The mixture was partitioned between water (800 mL) and ethyl acetate (800 mL), the organic layer was dried and concentrated to afford 2-chloro-4-hydroxy-6-methylnicotinonitrile (9.0 g brown solid, 84.1% yield).

reactant | 2,4-dichloro-6-methylnicotinonitrile | 64.2 mmol, 12.0 g | ClC1=C(C#N)C(=CC(=N1)C)Cl | C7H4Cl2N2
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 2-chloro-4-hydroxy-6-methylnicotinonitrile | 9.0 g, 84.1% yield | ClC1=C(C#N)C(=CC(=N1)C)O | C7H5ClN2O
